US09447450B2
7-aminonaphtho[2,1-d]thiazole-2-carbonitrile
To a stirred solution of tert-butyl (2-cyanonaphtho[2,1-d]thiazol-7-yl)carbamate (72 mg, 0.22 mmol) and thioanisole (0.5 mL) in 2 mL of DCM in an ice bath, 2 mL of trifluoroacetic acid was added. After 1 h, the reaction was concentrated under reduced pressure, and the product (47 mg, 94%) was isolated by silica gel chromatography eluting with 0→75% EtOAc in heptanes. 1H NMR (CD2Cl2) d 8.01 (d, 1H); 7.90 (dt, 1H); 7.76 (d, 1H); 7.09-7.16 (m, 2H).

reactant | tert-butyl (2-cyanonaphtho[2,1-d]thiazol-7-yl)carbamate | 0.22 mmol, 72 mg | C(#N)C=1SC2=C(N1)C=CC1=CC(=CC=C12)NC(OC(C)(C)C)=O | C17H15N3O2S
reactant | thioanisole | 0.5 mL | C1(=CC=CC=C1)SC | C7H8S
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 7-aminonaphtho[2,1-d]thiazole-2-carbonitrile | 47 mg, 94% | NC=1C=C2C=CC=3N=C(SC3C2=CC1)C#N | C12H7N3S
